US04474697
34.1 g of 1-amino-8-hydroxynaphthalene-3,6-disulphonic acid are dissolved in 400 ml of water at pH 5.5. After cooling the solution to 0°-5°, 9.2 ml of cyanuric fluoride are added dropwise in the course of 10 minutes, and during this the pH value in the solution is kept at 4.0-4.5 by adding 20% strength sodium carbonate solution dropwise. The solution is subsequently stirred at this pH value and at 0°-5° for 1/2 an hour and 24.5 g of 5-aminonaphthalene-2-sulphonic acid are then added. The ph value of the solution kept at 5.5-6.0 with sodium carbonate solution and the temperature is gradually increased to 20° in the course of 2 hours. After the condensation reaction has ended, the mixture is again cooled to 0°-10° and the suspension of a diazonium compound which has been obtained from 18.4 g of 2-aminobenzenesulphonic acid in 200 ml of water and 30 ml of concentrated hydrochloric acid with 54 ml of 2N sodium nitrite solution in the manner shown in the Example is now added.

reactant | 1-amino-8-hydroxynaphthalene-3,6-disulphonic acid | 34.1 g | NC1=CC(=CC2=CC(=CC(=C12)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO7S2
reactant | cyanuric fluoride | 9.2 ml | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-aminonaphthalene-2-sulphonic acid | 24.5 g | NC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)O | C10H9NO3S
reactant | sodium nitrite | 2N, 54 ml | N(=O)[O-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 2-aminobenzenesulphonic acid | 18.4 g | NC1=C(C=CC=C1)S(=O)(=O)O | C6H7NO3S
